US04370328
1-Methyl-1-(4-pyridylmethyl)-3-phenylurea (7.0 g) in glacial acetic acid (50 ml) was hydrogenated over platinum oxide at 60°/60 p.s.i. until uptake of hydrogen ceased. The catalyst was removed by filtration and the filtrate evaporated in vacuo. The resultant oil was basified with 5 N NaOH (to pH 12) and extracted with chloroform (2×50 ml). The combined extracts were dried (MgSO4) and evaporated with chloroform (2×50 ml). The combined extracts were dried (MgSO4) and evaporated to give 1-methyl-1-(4-piperidylmethyl)-3-cyclohexylurea as an oil (4.0 g). The n.m.r. and mass spectra were compatible with the required structure.

reactant | 1-Methyl-1-(4-pyridylmethyl)-3-phenylurea | 7.0 g | CN(C(=O)NC1=CC=CC=C1)CC1=CC=NC=C1 | C14H15N3O
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | [Pt]=O
product | 1-methyl-1-(4-piperidylmethyl)-3-cyclohexylurea | 4.0 g | CN(C(=O)NC1CCCCC1)CC1CCNCC1 | C14H27N3O
